* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_1
* Fitness: 0.9884
*
* --- Active Constraints ---
* _comment: Phase 1: 24V Industrial to 12V Bus (Buck)
* vin_min: 20
* vin_max: 28
* vout_target: 12
* efficiency_target: 0.82
* power_in: 30
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 11.208894
* efficiency: 0.924226
* total_volume_cm3: 29.924316
* total_components: 4
* ============================

* 24V to 12V Buck Converter
Vin in 0 24
M1 in gate sw sw NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 100u
Rload out 0 1
Vgate gate sw PULSE(0 12 0 1n 1n 5u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end